// Point Netlist Generated on: Jun 15 15:42:28 2026
// Generated for: spectre
// Design Netlist Generated on: Jun 15 15:42:28 2026
// Design library name: Test_FinFET
// Design cell name: PMOS_L18nm_PTM_Sqrt_Id_wrt_Vsg
// Design view name: schematic
simulator lang=spectre
global 0
parameters temperature=27 Vsd=0.45 Vsg=0.4
include "/home/avulpe_research/Desktop/FinFET/models.unknown" section=ptm14lstp

// Library name: Test_FinFET
// Cell name: PMOS_L18nm_PTM_Sqrt_Id_wrt_Vsg
// View name: schematic
V8 (Vsd net3) vsource dc=Vsg type=dc
V3 (Vsd 0) vsource dc=Vsd type=dc
M0 (0 net3 Vsd Vsd) pfet
simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    redefinedparams=warning maxnotes=5 maxwarns=5 digits=5 cols=80 \
    pivrel=1e-3 sensfile="../psf/sens.output" checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
dc dc param=Vsg start=0 stop=0.8 oppoint=rawfile maxiters=150 \
    maxsteps=10000 annotate=status
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save Vsg M0:s 
// saveOptions options save=all pwr=all currents=all saveahdlvars=all
